US07259183B2
A solution of 680 mg N-[2-(3,4-dichloro-phenyl)-ethyl]-4-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-benzamide (1.48 mmol) in 10 ml of THF was added dropwise to 5.9 ml of a 1 molar solution of BH3-THF complex in THF at 0° C. The reaction mixture was stirred for 1 h at rt and then heated to reflux over night. Then 2 ml of 6 N HCl solution were added very carefully at ambient temperature and the mixture was heated again to reflux for 1.5 h. After cooling to rt, the pH was adjusted to 8-9 by addition of 1 N sodium hydroxide solution and the mixture was extracted twice with EtOAc. The combined organic layers were washed with brine, dried with magnesium sulfate, filtered and concentrated. Final purification (silica gel; DCM/methanol 95:5) yielded 647 mg (98%) of [2-(3,4-dichloro-phenyl)-ethyl]-[4-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-benzyl]-amine as a white solid.

reactant | N-[2-(3,4-dichloro-phenyl)-ethyl]-4-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-benzamide | 1.48 mmol, 680 mg | ClC=1C=C(C=CC1Cl)CCNC(C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)=O | C18H13Cl2F6NO2
reactant | HCl | 6 N, 2 ml | Cl | ClH
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | [2-(3,4-dichloro-phenyl)-ethyl]-[4-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-benzyl]-amine | 647 mg, 98% | ClC=1C=C(C=CC1Cl)CCNCC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C18H15Cl2F6NO
